US04774248
Preparation of 5-phenyl-1,2,3,4,5,6-hexahydropyrimidine dihydrochloride
37.5 g (0.168 mol) of 2-phenylpropane-1,3-diamine dihydrochloride are dissolved in 100 ml of water, and 13.52 g (0.336 mol) of sodium hydroxide pellets are added. The mixture is cooled in a bath of water+ice and 17 ml of a 30% (w/v) aqueous solution of formaldehyde are added. The mixture is left overnight at room temperature (15°-20° C.) and extracted with 5×50 ml of CHCl3, and the chloroform phase is washed with 25 ml of water, dried over MgSO4 and filtered. The filtrate is evaporated to dryness, the evaporation residue is taken up with 500 ml of anhydrous C2H5OH and acidified with ethanol containing HCl, and the precipitate formed is collected by filtration, washed with a small quantity of anhydrous ethanol and dried in vacuo to give 24 g (yield: 58%) of CRL 41 365. M.p. (inst.)=192° C.

reactant | 2-phenylpropane-1,3-diamine dihydrochloride | 0.168 mol, 37.5 g | Cl.Cl.C1(=CC=CC=C1)C(CN)CN
reactant | sodium hydroxide | 0.336 mol, 13.52 g | [OH-].[Na+]
reactant | formaldehyde | C=O | CH2O
solvent | water | 100 ml | O | H2O
product | 5-phenyl-1,2,3,4,5,6-hexahydropyrimidine dihydrochloride | yield: 58% | Cl.Cl.C1(=CC=CC=C1)C1CNCNC1 | InChI=1S/C10H14N2.2ClH/c1-2-4-9(5-3-1)10-6-11-8-12-7-10;;/h1-5,10-12H,6-8H2;2*1H
